US08912330B2
1-{[5-fluoro-2-(trifluoromethyl)benzyl]oxy}-6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[3,2-b]pyridine
The entitled compound is prepared from tert-butyl 4-[4-(1-hydroxy-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate and 2-(bromomethyl)-4-fluoro-1-(trifluoromethyl)benzene as described in the last 2 steps of Example 18.

reactant | tert-butyl 4-[4-(1-hydroxy-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | ON1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C20H25N5O3
reactant | 2-(bromomethyl)-4-fluoro-1-(trifluoromethyl)benzene | BrCC1=C(C=CC(=C1)F)C(F)(F)F | C8H5BrF4
product | 1-{[5-fluoro-2-(trifluoromethyl)benzyl]oxy}-6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[3,2-b]pyridine | FC=1C=CC(=C(CON2C=CC3=NC=C(C=C32)C=3C=NN(C3)C3CCNCC3)C1)C(F)(F)F | C23H21F4N5O
